US07763629B2
(R)-2-Chloro-8-cyclopentyl-7-ethyl-7,8-dihydropteridin-6(5H)-one (100 mg, 0.357 mmol) in phosphorus oxychloride (3.0 ml) was stirred at 110° C. for 3 hours then concentrated under reduced pressure. The residue was dissolved in anhydrous dichloromethane and added dropwise to 1.0 M hydrazine in THF (3.6 ml, 3.57 mmol). The mixture was stirred at RT overnight, taken into ethyl acetate and washed with aqueous sodium hydrogen carbonate, dried over magnesium sulphate and concentrated. The residue of crude hydrazide was dissolved in trimethyl orthoformate (2.0 ml) and stirred at 110° C. for 90 min. The mixture was concentrated under reduced pressure and purified by flash chromatography on silica gel eluting with ethyl acetate to give (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine (68 mg, 63%) as a pale brown solid; 1H NMR (DMSO D6) 0.75 (3H, t), 1.50-1.64 (2H, m), 1.80-2.08 (8H, m), 4.22-4.33 (1H, m), 5.28-5.35 (1H, m), 8.68 (1H, s), 9.35 (1H, s); MS (ES+) 305.

reactant | (R)-2-Chloro-8-cyclopentyl-7-ethyl-7,8-dihydropteridin-6(5H)-one | 0.357 mmol, 100 mg | ClC1=NC=2N([C@@H](C(NC2C=N1)=O)CC)C1CCCC1 | C13H17ClN4O
reactant | hydrazine | 1.0 M | NN | H4N2
reactant | THF | 3.57 mmol, 3.6 ml | C1CCOC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | phosphorus oxychloride | 3.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine | 68 mg, 63% | ClC1=NC=2N([C@@H](C=3N(C2C=N1)C=NN3)CC)C3CCCC3 | C14H17ClN6
